US06699887B2
A solution containing 7.9 ml of hydrazine hydrate in 80 ml of ethanol was treated with 3.7 ml of 4-methoxybenzylchloride and heated at 90° C. for 2.0 h. The solvent was reduced by evaporation under reduced pressure and then the resulting residue was dissolved in 30 ml of ethanol. The solution was acidified with 30 ml of 5N HCl at 0° C. and a white precipitate separated. The white solid was filtered off and dried to give 2.75 g of (4-methoxybenzyl)hydrazine dihydrochloride (PMBNHNH2.2HCl), which was used without further purification.

reactant | hydrazine hydrate | 7.9 ml | O.NN
reactant | 4-methoxybenzylchloride | 3.7 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | (4-methoxybenzyl)hydrazine dihydrochloride | 2.75 g | Cl.Cl.COC1=CC=C(CNN)C=C1 | InChI=1S/C8H12N2O.2ClH/c1-11-8-4-2-7(3-5-8)6-10-9;;/h2-5,10H,6,9H2,1H3;2*1H
